US03956374
Step B: 1-(p-Chlorophenyl)-7-(m-chlorophenyl)-4-phenyl-1,6-heptadien-3-one
A sodium hydroxide solution (7.5 ml., 20%) is added to a solution of p-chlorobenzaldehyde (17.86 g., 0.127 mole) and 3-phenyl-6-(m-chlorophenyl)-5-hexen-2-one (36.11 g., 0.127 mole) in ethanol (360 ml.) with stirring. The gum that separates on continued stirring is chromatographed (benzene) through a silica gel column to obtain the product as a very viscous oil (opaque).

reactant | sodium hydroxide | 7.5 ml | [OH-].[Na+]
reactant | p-chlorobenzaldehyde | 0.127 mole, 17.86 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 3-phenyl-6-(m-chlorophenyl)-5-hexen-2-one | 0.127 mole, 36.11 g | C1(=CC=CC=C1)C(C(C)=O)CC=CC1=CC(=CC=C1)Cl | C18H17ClO
solvent | ethanol | 360 ml | C(C)O | C2H6O
product | 1-(p-Chlorophenyl)-7-(m-chlorophenyl)-4-phenyl-1,6-heptadien-3-one | ClC1=CC=C(C=C1)C=CC(C(CC=CC1=CC(=CC=C1)Cl)C1=CC=CC=C1)=O | C25H20Cl2O
